US09169248B2
To ethyl 2-[2-methyl-4-(trifluoromethyl)-5-vinyl-imidazol-1-yl]pent-4-enoate (127 mg, 0.42 mmol) was added EtOH (2 mL) and 5 N NaOH (0.5 mL), and the resulting solution was stirred at room temperature for 1 h. 12 N HCl was added slowly at room temperature until the solution reached pH 2, followed by concentration in vacuo to obtain 2-[2-methyl-4-(trifluoromethyl)-5-vinyl-imidazol-1-yl]pent-4-enoic acid (100 mg, crude) which was used as such in the next step without further purification.

reactant | ethyl 2-[2-methyl-4-(trifluoromethyl)-5-vinyl-imidazol-1-yl]pent-4-enoate | 0.42 mmol, 127 mg | CC=1N(C(=C(N1)C(F)(F)F)C=C)C(C(=O)OCC)CC=C | C14H17F3N2O2
reactant | NaOH | 5 N, 0.5 mL | [OH-].[Na+]
reactant | HCl | 12 N | Cl | ClH
solvent | EtOH | 2 mL | CCO | C2H6O
product | 2-[2-methyl-4-(trifluoromethyl)-5-vinyl-imidazol-1-yl]pent-4-enoic acid | 100 mg | CC=1N(C(=C(N1)C(F)(F)F)C=C)C(C(=O)O)CC=C | C12H13F3N2O2
